US08685969B2
3. 7-Acetyl-1-(2-methyl-3-nitrophenyl)-3H-pyridazino[4,5-b]indol-4(5H)-one
A mixture of 7-bromo-1-(2-methyl-3-nitrophenyl)-3H-pyridazino [4,5-b]indol-4(5H)-one (2.00 g, 5.01 mmol), tributyl(1-ethoxyvinyl)stannane (4.06 mL, 12.02 mmol), dichlorobis(triphenylphosphine)-palladium(II) (0.422 g, 0.601 mmol), and triethylamine (0.908 mL, 6.51 mmol) in 1,4-Dioxane (100 mL) was heated at 95° C. for 24 hr. Upon cooling to room temperature, the mixture was filtered through CELITE®. The filtrate was concentrated under vacuum to dryness. To the residue was added THF (100 mL) and 1 N HCl solution (100 mL), and the mixture was stirred at 60° C. for 1.5 hr. It was concentrated under vacuum to a volume of 100 mL, neutralized with 1 N NaOH solution to pH 4-5, and extracted with ethyl acetate (3×150 mL). The combined, cloudy organic solution was concentrated under vacuum to dryness. To the residue was added hexane (100 mL), and the mixture was stirred at room temperature for 1 hr. The clear solution was decanted and the residue was repeated with this operation for two more times. The solid material was collected by suction filtration to give a crude product (1.98 g, 5.46 mmol, >100% yield) as a beige solid.

reactant | 7-bromo-1-(2-methyl-3-nitrophenyl)-3H-pyridazino [4,5-b]indol-4(5H)-one | 5.01 mmol, 2.00 g | BrC=1C=CC=2C3=C(NC2C1)C(NN=C3C3=C(C(=CC=C3)[N+](=O)[O-])C)=O | C17H11BrN4O3
reactant | tributyl(1-ethoxyvinyl)stannane | 12.02 mmol, 4.06 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | triethylamine | 6.51 mmol, 0.908 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-Dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.601 mmol, 0.422 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-Acetyl-1-(2-methyl-3-nitrophenyl)-3H-pyridazino[4,5-b]indol-4(5H)-one | 5.46 mmol, 1.98 g, >100% yield | C(C)(=O)C=1C=CC=2C3=C(NC2C1)C(NN=C3C3=C(C(=CC=C3)[N+](=O)[O-])C)=O | C19H14N4O4
